US04558111
To a three-necked flask equipped as in Example 1 there was added 260 grams allylacrylate (2.32 moles), 0.5 grams catalyst prepared in accordance with U.S. Pat. No. 3,814,730 (2.6 weight percent Pt) and 1.04 grams phenothiazine. The mixture was heated with stirring to 65° C. and, using the vent of the condenser, purged with nitrogen. The heat source was then turned off and 237 grams (2.32 moles) CH3SiHCl2 was added dropwise, the temperature of the reaction mass being maintained at about 70° C. Upon completion of the addition of methyldichlorosilane the crude product was cooled to room temperature. One gram phenothiazine and 0.05 gram triphenyl phosphine were added to the product prior to distillation. Acryloxypropylmethyldichlorosilane (360 grams, 68% yield) was distilled at 109°-112° C./10 mm Hg.

reactant | allylacrylate | 2.32 moles, 260 grams | C(C=C)OC(C=C)=O | C6H8O2
reactant | CH3SiHCl2 | 2.32 moles, 237 grams | C[SiH](Cl)Cl | CH4Cl2Si
catalyst | phenothiazine | 1.04 grams | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
catalyst | phenothiazine | One gram | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
catalyst | triphenyl phosphine | 0.05 gram | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Acryloxypropylmethyldichlorosilane | 360 grams, 68% yield | C(C=C)(=O)OCCC[Si](Cl)(Cl)C | C7H12Cl2O2Si
